US03996230
In the manner given in Example 1, 8-(trifluoromethyl)-1-bromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated with 1-isopropylpiperazine to give 8-(trifluoromethyl)-1-(4-isopropylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-(trifluoromethyl)-1-bromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)Br)C3=NC=CC=C3)C1)(F)F | C16H9BrF3N5
reactant | 1-isopropylpiperazine | C(C)(C)N1CCNCC1 | C7H16N2
product | 8-(trifluoromethyl)-1-(4-isopropylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)N3CCN(CC3)C(C)C)C3=NC=CC=C3)C1)(F)F | C23H24F3N7
